US06974802B2
c) 2,2-dimethyl-3-(N-Boc-L-valyloxy)propionic acid iodomethyl ester
2,2-Dimethyl-3-(N-Boc-L-valyloxy)propionic acid chloromethyl ester (3.6 g, 10 mmole) was dissolved in acetonitrile (50 ml). Sodium iodide (2.1 g, 14 mmole) was added to the solution. After reaction at 70° C. for 2 hr, the reaction mixture was filtered and the residue was dissolved in methylene chloride (20 ml) and refiltered. The solution was dried and gave 4.34 g of the titled product.

reactant | 2,2-Dimethyl-3-(N-Boc-L-valyloxy)propionic acid chloromethyl ester | 10 mmole, 3.6 g | ClCOC(C(COC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O)(C)C)=O | C16H28ClNO6
reactant | Sodium iodide | 14 mmole, 2.1 g | [I-].[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2,2-dimethyl-3-(N-Boc-L-valyloxy)propionic acid iodomethyl ester | 4.34 g | ICOC(C(COC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O)(C)C)=O | C16H28INO6
